US06333326B1
(−)-6,7-Dichloro-5-[3-methoxymethyl-5-(1-oxidopyridin-3-yl)-4H-1,2,4-triazol-4-yl]-2.3(1H,4H)-quinoxalinedione hydrate
Concentrated hydrochloric acid (1 ml) was added to a stirred solution of (−)-6,7-dichloro-5-[3-methoxymethyl-5-(1-oxidopyridin-3-yl)-4H-1,2,4-triazol-4-yl]-2,3(1H,4H)-quinoxalinedione, silica complex (See Reference Example 1) (2.3 g, 4.64 mmol) in methanol (40 ml) and the mixture stirred for 2 hours. The solid precipitate was collected by filtration to afford the title compound as a white solid (1.4 g, 65%). mp 264-265° C.

reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | (−)-6,7-dichloro-5-[3-methoxymethyl-5-(1-oxidopyridin-3-yl)-4H-1,2,4-triazol-4-yl]-2,3(1H,4H)-quinoxalinedione | ClC=1C(=C2NC(C(NC2=CC1Cl)=O)=O)N1C(=NN=C1C=1C=[N+](C=CC1)[O-])COC | C17H12Cl2N6O4
solvent | methanol | 40 ml | CO | CH4O
product | (−)-6,7-Dichloro-5-[3-methoxymethyl-5-(1-oxidopyridin-3-yl)-4H-1,2,4-triazol-4-yl]-2.3(1H,4H)-quinoxalinedione hydrate | 1.4 g, 65% | O.ClC=1C(=C2NC(C(NC2=CC1Cl)=O)=O)N1C(=NN=C1C=1C=[N+](C=CC1)[O-])COC | InChI=1S/C17H12Cl2N6O4.H2O/c1-29-7-11-22-23-15(8-3-2-4-24(28)6-8)25(11)14-12(19)9(18)5-10-13(14)21-17(27)16(26)20-10;/h2-6H,7H2,1H3,(H,20,26)(H,21,27);1H2
